US06713464B1
A solution of (±)-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropionic acid methyl ester (0,391 g, 0,92 mmol) in ethanol (5 ml) was treated at 50° C. with excess aqueous sodium hydroxide solution until the milky emulsion became clear. The reaction mixture was then acidified (pH 3), evaporated and extracted with dichloromethane. The organic extract was evaporated and the remaining oil was redissolved in a minimum of boiling ethanol. The precipitation formed after 18 hrs at 4° C. was filtered off and dried in vacuo to yield 0.27 g (71.4%) of (±)-3-(2-Benzyloxy)-5-bromophenyl)-3-phenylpropionic acid, colourless crystals, m.p. 124.9° C.; tlc: (1) 0.15 starting material methyl ester 0.75); NMR (CDCl3): 39.15, 40.26, 70.25, 113.21, 113.90, 126.62, 127.27, 127.98, 128.17, 128.47, 128.54, 130.46, 130.68, 134.34, 136.45, 142.16, 154.95, 177.65. LC-MS: 412/410 (14/11%, M+), 394/392 (15/13%), 321/319 (17/22%), 304/302 (17/21%), 259 (24%), 194 (22%), 178 (21%), 167 (65%), 152 (49%), 92 (100%). IR (KBr): 3434, 3030, 1708, 1485, 1452, 1403, 1289, 1243, 1126, 1018, 804, 735, 698, 649. Calculated for C22H19BrO3 (mol-wgt. 411.30): C, 64.25%, H, 4.66%, Br, 19.43%, O, 11.67%; found: C, 63.72%, H, 4.70%, Br, 19.75%, O, 11.80%.

reactant | (±)-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropionic acid methyl ester | 0,92 mmol, 0,391 g | COC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1)=O | C23H21BrO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-phenylpropionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
